US07985755B2
(2-Chlorophenyl)-[4-(2,4-diaminoquinazolin-5-yloxymethyl)piperidin-1-yl]methanone (Example-015).
The cyclization of 2-[1-(2-chlorobenzoyl)-piperidin-4-ylmethoxy]-6-fluoro-benzonitrile (219 mg, 0.6 mmol) and guanidine carbonate was carried out using Method Z to afford 70.6 mg of title compound (29% yield). 1HNMR (400 MHz, DMSO-d6) δ 7.52 (m, 1H), 7.43 (m, 3H), 7.36 (t, J=8.4 Hz, 1H), 7.2 (m, 2H), 6.77 (d, J=8.4 Hz, 1H), 6.57 (t, J=7.2 Hz, 1H), 6.0 (br s, 2H), 4.56 (br d, J=12 Hz, 1H), 4.03 (d, J=6 Hz, 2H), 3.28 (m, 1H), 3.05 (m, 1H), 2.85 (t, J=12.8 Hz, 1H), 2.23 (m, 1H), 1.91 (m, 1H), 1.72 (t, J=13.6 Hz, 1H), 1.33 (m, 2H). MS m/z (ESI) 412 (M−H)+.

reactant | 2-[1-(2-chlorobenzoyl)-piperidin-4-ylmethoxy]-6-fluoro-benzonitrile | 0.6 mmol, 219 mg | ClC1=C(C(=O)N2CCC(CC2)COC2=C(C#N)C(=CC=C2)F)C=CC=C1 | C20H18ClFN2O2
reactant | guanidine carbonate | C(O)(O)=O.NC(=N)N
product | (2-Chlorophenyl)-[4-(2,4-diaminoquinazolin-5-yloxymethyl)piperidin-1-yl]methanone | 70.6 mg, 29% yield | ClC1=C(C=CC=C1)C(=O)N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C21H22ClN5O2
